US09193693B2
Step 2. 3-(3,3-Dimethylpiperidin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 3-(3,3-dimethylpiperidin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate (120 mg, 0.31 mmol, 1.00 equiv), methanol (15 mL), sodium hydroxide (61 mg, 1.52 mmol, 4.99 equiv), and water (2 mL). The resulting solution was stirred for 2 h at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 20 mL of H2O. The pH value of the aqueous solution was adjusted to 4-5 with hydrogen chloride (1 mol/L). The resulting solids were collected by filtration. This resulted in 60 mg (52%) of 3-(3,3-dimethylpiperidin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(3,3-dimethylpiperidin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.31 mmol, 120 mg, 1.00 equiv | CC1(CN(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)C | C23H24FN3O2
reactant | methanol | 15 mL | CO | CH4O
reactant | sodium hydroxide | 1.52 mmol, 61 mg, 4.99 equiv | [OH-].[Na+]
solvent | water | 2 mL | O | H2O
product | 3-(3,3-Dimethylpiperidin-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid | CC1(CN(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)F)C | C22H22FN3O2
